US08349865B2
Step 3: 6-{[2,6-Dichloro-4-(1H-1,2,3-triazol-4-yl)phenyl]amino}pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one
N-(2,6-Dichloro-4-ethynylphenyl)-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine (66 mg, 0.167 mmol) and TMS-N3 (1.5 mL, 11.30 mmol) were combined and heated in a sealed tube to 150° C. for 16 h. Volatiles were evaporated under vacuum. To the residue was added chloroform (1 mL) and boron tribromide (1.2 mL, 1.2 mmol, 1M in dichloromethane) and the mixture was heated at 85° C. for 45 min in a sealed tube. After cooling to room temperature, the reaction was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate, followed by brine. The organic layer was dried with sodium sulfate, filtered and concentrated under reduced pressure. The residue was dissolved in THF/MeOH, filtered and purified by reverse phase HPLC to afford the title compound.

reactant | N-(2,6-Dichloro-4-ethynylphenyl)-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine | 0.167 mmol, 66 mg | ClC1=C(C(=CC(=C1)C#C)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OC | C20H12Cl2N4O
reactant | TMS-N3 | 11.30 mmol, 1.5 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
reactant | boron tribromide | 1.2 mmol, 1M, 1.2 mL | B(Br)(Br)Br | BBr3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{[2,6-Dichloro-4-(1H-1,2,3-triazol-4-yl)phenyl]amino}pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one | ClC1=C(C(=CC(=C1)C=1N=NNC1)Cl)NC1=NC2=CC=NC=C2C2=C1C=CNC2=O | C19H11Cl2N7O
